US05461143
NeuAc (0.92 g, 3 mmol), Galβ1,4GlcNAc (1.1 g, 3 mmol), CMP (0.1 g, 30 μmol), ATP (16 mg, 3 μmol), PEP (2.8 g, 6 mmol), MgCl2. 6H2O (0.61 g, 3 mmol), MnCl2.4H2O (0.15 g, 0.8 mmol), KCl (0.22 g, 3 mmol), NMK or MK (450 U), PK (6,000 U), PPase (300 U), CMP-NeuAc synthetase (24 U) , and Siaα2,6Gal sialyl transferase (4 U) were mixed with 150 ml of HEPES buffer (0.2M, pH 7.5) to form a reaction mixture and the reaction mixture maintained under argon at about 25° C. for about 48 hours. After the disappearance of NeuAc (determined by thin-layer chromatography) the reaction mixture was reduced in volume to 20 ml by lyophilization and the lyophilized reaction mixture applied to a Bio Gel P2 (200-400 mesh) column with water as the mobile phase. The trisaccharide-containing fractions were eluted, collected and lyophilized to give pure Neuα2,6Galβ1,4GlcNAc in 97 percent yield.

reactant | NeuAc | 3 mmol, 0.92 g | OC(=O)C1(O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O1)[C@H](O)[C@H](O)CO | C11H19NO9
reactant | Galβ1,4GlcNAc | 3 mmol, 1.1 g | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@H]1[C@@H]([C@H](C(O)O[C@@H]1CO)NC(=O)C)O | C14H25NO11
reactant | ATP | 3 μmol, 16 mg | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
reactant | KCl | 3 mmol, 0.22 g | [Cl-].[K+]
reactant | CMP-NeuAc | CC(=O)N[C@@H]1[C@H](C[C@](OC1[C@@H]([C@@H](CO)O)O)(C(=O)O)OP(=O)([O-])OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=NC3=O)N)O)O)O.[Na+]
reactant | HEPES | 0.2M, 150 ml, pH 7.5 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | Bio Gel P2 | C=CC(=O)N | C3H5NO
solvent | water | O | H2O
product | Neuα2,6Galβ1,4GlcNAc | 97 percent yield | OC(=O)[C@@]1(OC[C@@H]2[C@@H]([C@@H]([C@H]([C@H](O[C@H]3[C@@H]([C@H](C(O)O[C@@H]3CO)NC(=O)C)O)O2)O)O)O)C[C@H](O)[C@@H](N)[C@@H](O1)[C@H](O)[C@H](O)CO | C23H40N2O18
